US09216964B2
To a reaction vessel containing 7-benzyl-4-chloro-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine (518 mg, 2 mmol), 3-(isoquinolin-3-yl)-4-methylaniline (470 mg, 2 mmol), pTSA (144 mg, 0.6 mmol) is added isopropanol (7 ml). The vessel is purged with nitrogen, sealed. The reaction vessel is placed in a microwave reactor and irradiated for 30 minutes at 130° C. The reaction mixture is cooled to room temperature and diluted with ethyl acetate. It is washed with saturated aqueous NaHCO3, water and brine, dried over anhydrous MgSO4 and concentrated. The residue is subjected to silica gel flash chromatography (2% methanol in dichloromethane) to afford 7-Benzyl-N-(3-(isoquinolin-3-yl)-4-methylphenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine as a brown solid. LC-MS m/z: 458.2 (M+1).

reactant | 7-benzyl-4-chloro-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 2 mmol, 518 mg | C(C1=CC=CC=C1)N1CC=2N=CN=C(C2CC1)Cl | C14H14ClN3
reactant | 3-(isoquinolin-3-yl)-4-methylaniline | 2 mmol, 470 mg | C1=NC(=CC2=CC=CC=C12)C=1C=C(N)C=CC1C | C16H14N2
reactant | pTSA | 0.6 mmol, 144 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | isopropanol | 7 ml | C(C)(C)O | C3H8O
product | 7-Benzyl-N-(3-(isoquinolin-3-yl)-4-methylphenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine | C(C1=CC=CC=C1)N1CC=2N=CN=C(C2CC1)NC1=CC(=C(C=C1)C)C=1N=CC2=CC=CC=C2C1 | C30H27N5
